US04882350
5-n-butoxy-pyrrolidin-2-one.
The operation is done as for preparation 2, replacing the isopropanol by n-butanol and employing 14.32 g of succinimide in 600 cm3 of n-butanol and 8 g of boron and sodium hydride. 7.5 g of the expected product is obtained, m.p. 36°-38° C. The product can also be prepared by anodic alkylation according to a process described in Synthesis 4, 315-317 (1980).

reactant | succinimide | 14.32 g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | boron | 8 g | [B] | B
reactant | sodium hydride | [H-].[Na+]
solvent | n-butanol | 600 cm3 | C(CCC)O | C4H10O
product | 5-n-butoxy-pyrrolidin-2-one | 7.5 g | C(CCC)OC1CCC(N1)=O | C8H15NO2
